US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-hydroxymethylpyrrolidin-1-yl)-pyrimidin-4-yl]benzamide.
Using 2-(hydroxymethyl)-pyrrolidine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 467 (M+H)+.

reactant | 2-(hydroxymethyl)-pyrrolidine | OCC1NCCC1 | C5H11NO
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-hydroxymethylpyrrolidin-1-yl)-pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N1C(CCC1)CO)=O | C27H26N6O2
